US04393075
In anhydrous methylene chloride (300 ml) were 1,2,3,4-tetramethoxy-5-methyl-6-(4-hydroxybutyl)benzene (28.2 g, 0.1 mole) as obtained in Reference Example 59 and triethylamine (16 g, 0.15 mole), and the solution was cooled to 0° C. A solution of methanesulfonyl chloride (14.3 g, 0.12 mole) in methylene chloride (30 ml) was added dropwise to the solution, followed by stirring for 30 minutes. The reaction solution was washed with water, dilute aqueous phosphoric acid and water, successively, and the organic layer was dried (over MgSO4) and freed of the solvent. Acetone (300 ml) and sodium iodide (39.0 g, 0.26 mole) were added to the residue, and the mixture was warmed at 50° C. for 2 hours. After the completion of the reaction, acetone was distilled off under reduced pressure, and isopropyl ether (300 ml) and water (200 ml) were added to the residue for extraction of the product. The organic layer was washed with 5% aqueous sodium hydrosulfite and water, successively, and dried (over MgSO4), followed by distilling off the solvent under reduced pressure. The residue was chromatographed on a column of silica gel, and developing with isopropyl ether-hexane (1:1) yielded 1,2,3,4-tetramethoxy-5-methyl-6-(4-iodobutyl)benzene (37.0 g, 94%).

reactant | 1,2,3,4-tetramethoxy-5-methyl-6-(4-hydroxybutyl)benzene | 0.1 mole, 28.2 g | COC1=C(C(=C(C(=C1CCCCO)C)OC)OC)OC | C15H24O5
reactant | triethylamine | 0.15 mole, 16 g | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.12 mole, 14.3 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | sodium iodide | 0.26 mole, 39.0 g | [I-].[Na+]
solvent | methylene chloride | 300 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
solvent | acetone | CC(=O)C | C3H6O
solvent | Acetone | 300 ml | CC(=O)C | C3H6O
product | 1,2,3,4-tetramethoxy-5-methyl-6-(4-iodobutyl)benzene | 37.0 g, 94% | COC1=C(C(=C(C(=C1CCCCI)C)OC)OC)OC | C15H23IO4
